US05326497
A Grignard reagent solution prepared from 0.8 g of magnesium, 8.0 g of 1,4-dibromobenzene and 50 ml of tetrahydrofuran was added dropwise at 0°-5° C. within 30 minutes to a mixture of 6.6 g of 5-trimethylsilyloxy-2-chloropyridine, 75 ml of tetrahydrofuran and 0.4 g of 1,3-bis(diphenylphosphino)-propanenickel(II) chloride. The reaction mixture was stirred for 3 hours, left to stand overnight, then adjusted to pH 8 with aqueous sodium hydrogen carbonate solution and diluted with diethyl ether. The organic phase was washed neutral with water, dried over sodium sulfate and concentrated. Chromatographic purification of the residue on silica gel with hexane/ethyl acetate (vol. 4:1) yielded 5.5 g of 5-hydroxy-2-(4-bromophenyl)-pyridine.

reactant | magnesium | 0.8 g | [Mg] | Mg
reactant | 1,4-dibromobenzene | 8.0 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | 5-trimethylsilyloxy-2-chloropyridine | 6.6 g | C[Si](OC=1C=CC(=NC1)Cl)(C)C | C8H12ClNOSi
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | 1,3-bis(diphenylphosphino)-propanenickel(II) chloride | 0.4 g | CC(C)P(C1=CC=CC=C1)C2=CC=CC=C2.C1=CC=C(C=C1)PC2=CC=CC=C2.[Cl-].[Ni]
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 5-hydroxy-2-(4-bromophenyl)-pyridine | 5.5 g | OC=1C=CC(=NC1)C1=CC=C(C=C1)Br | C11H8BrNO
